US09085540B2
A mixture of 1-cyclopropyl-4-(4-nitro-1H-pyrazol-1-yl)piperidine (952 mg), ethanol (6 mL), water (2 mL), and ammonium chloride (108 mg) was heated to 80° C., and iron powder (1.13 g) was added thereto, followed by stirring at 80° C. for 3 hours. Chloroform and methanol were added thereto, followed by filtration through celite, and the organic phase was dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure and the obtained residue was purified by silica gel column chromatography (eluent; chloroform:methanol:28% aqueous ammonia=1:0:0-95:4.5:0.5, NH2 type: eluent; hexane:ethyl acetate=3:7-0:1) to obtain 1-(1-cyclopropylpiperidin-4-yl)-1H-pyrazol-4-amine (558 mg) as a pale pink solid.

reactant | 1-cyclopropyl-4-(4-nitro-1H-pyrazol-1-yl)piperidine | 952 mg | C1(CC1)N1CCC(CC1)N1N=CC(=C1)[N+](=O)[O-] | C11H16N4O2
reactant | ethanol | 6 mL | C(C)O | C2H6O
reactant | water | 2 mL | O | H2O
reactant | ammonium chloride | 108 mg | [Cl-].[NH4+]
catalyst | iron | 1.13 g | [Fe] | Fe
solvent | methanol | CO | CH4O
solvent | Chloroform | C(Cl)(Cl)Cl | CHCl3
product | 1-(1-cyclopropylpiperidin-4-yl)-1H-pyrazol-4-amine | 558 mg | C1(CC1)N1CCC(CC1)N1N=CC(=C1)N | C11H18N4
